US05925624
(1S-cis)-[3-[(Methylsulphonyl)oxy]cyclopentyl]carbamic acid 1,1-dimethylethyl ester
Methanesulphonyl chloride (0.98 ml, 12.6 mmol) was added to a stirred mixture of (1S-cis)-(3-hydroxycyclopentyl)carbamic acid 1,1-dimethylethyl ester (1.41 g, 7.01 mmol) and triethylamine (1.76 ml, 12.6 mmol) in acetone(55 ml) at 4° C. The resulting mixture, containing a white precipitate, was stirred at 4° C. for one hour, then at 21° C. for a further 2.25h, after which it was diluted with water(150 ml) and extracted with ethyl acetate (3×100 ml). The total organic solution was washed with water (50 ml), dried (MgSO4) and evaporated to a white solid. This was dissolved in hot diethyl ether(25 ml) and cooled to 4° C. for 2h, after which time, cyclohexane(25 ml) was added which caused a precipitate to form immediately. The mixture was left to stand at 4° C. for a further 3h, after which the solid was filtered off, washed with cold cyclohexaneldiethyl ether(2:1), then dried to give the title compound (1.202 g) as a white solid, m.p. 88-89° C., [α]D -11.11° (CHCl3 c=0.54%).

reactant | Methanesulphonyl chloride | 12.6 mmol, 0.98 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | (1S-cis)-(3-hydroxycyclopentyl)carbamic acid 1,1-dimethylethyl ester | 7.01 mmol, 1.41 g | CC(C)(C)OC(N[C@@H]1C[C@@H](CC1)O)=O | C10H19NO3
reactant | triethylamine | 12.6 mmol, 1.76 ml | C(C)N(CC)CC | C6H15N
solvent | acetone | 55 ml | CC(=O)C | C3H6O
solvent | water | 150 ml | O | H2O
product | (1S-cis)-[3-[(Methylsulphonyl)oxy]cyclopentyl]carbamic acid 1,1-dimethylethyl ester | 1.202 g | CC(C)(C)OC(N[C@@H]1C[C@@H](CC1)OS(=O)(=O)C)=O | C11H21NO5S
